US08802728B2
Cool a solution of (3-bromo-4-fluoro-phenoxy)-tert-butyl-dimethyl-silane (5.81 g, 19.03 mmol) in THF (100 mL) to −78° C. under N2. Then add dropwise a solution of t-BuLi (14.6 mL, 19.03 mmol) in hexane via syringe to the reaction solution. After being stirred at −78° C. for 1 hour, add dropwise a solution of 2-dimethylaminomethyl-bicyclo[3.2.1]octan-3-one (2.87 g, 15.86 mmol) in THF (1.5 mL) to the reaction mixture and stir the mixture at −78° C. for additional 1 hour. Quench the reaction with 60 mL of diluted HCl (2N), and stir at ambient temperature for 2 hours. Basify the resultant mixture with K2CO3 to pH=9, and extract with EtOAc (100 mL×3). The combined organic layers are washed with brine, dried over Na2SO4, filtered, and concentrated under vacuum. Purify the residue by silica gel chromatography (CH2Cl2 to CH2Cl2:MeOH=10:1) to afford 2-dimethylaminomethyl-3-(2-fluoro-5-hydroxy-phenyl)-bicyclo[3.2.1]octan-3-ol as white solid (2.38 g, yield: 51.2%). MS (m/z): 294 (M+1).

reactant | (3-bromo-4-fluoro-phenoxy)-tert-butyl-dimethyl-silane | 19.03 mmol, 5.81 g | BrC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1F | C12H18BrFOSi
reactant | t-BuLi | 19.03 mmol, 14.6 mL | [Li]C(C)(C)C
reactant | 2-dimethylaminomethyl-bicyclo[3.2.1]octan-3-one | 15.86 mmol, 2.87 g | CN(C)CC1C2CCC(CC1=O)C2 | C11H19NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-dimethylaminomethyl-3-(2-fluoro-5-hydroxy-phenyl)-bicyclo[3.2.1]octan-3-ol | 2.38 g, yield: 51.2% | CN(C)CC1C2CCC(CC1(O)C1=C(C=CC(=C1)O)F)C2 | C17H24FNO2
